US08106190B2
Methyl 5-(bromomethyl)-2-nitrobenzoate was added to a DMF suspension of potassium carbonate and piperidine, followed by stirring at room temperature to obtain methyl 2-nitro-5-(piperidin-1-ylmethyl)benzoate (Dat, ES: 279). This compound was dissolved in acetic acid, iron powder was added thereto, followed by stirring at 60° C. to obtain methyl 2-amino-5-(piperidin-1-ylmethyl)benzoate (Dat, F: 249). Cyclohexanone and sodium triacetoxyborohydride were added to an acetic acid solution of this compound, followed by stirring at room temperature. By post-treating the reaction liquid, methyl 2-(cyclohexylamino)-5-(piperidin-1-ylmethyl)benzoate was obtained.

reactant | Methyl 5-(bromomethyl)-2-nitrobenzoate | BrCC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C9H8BrNO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-nitro-5-(piperidin-1-ylmethyl)benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=C(C=C1)CN1CCCCC1 | C14H18N2O4
